US04275212
In procedures similar to those in Example 1 above, except that a 2,3,5-trichloropyridine was used in place of the bis reactant, it was found that reaction of equimolar amounts of the pyridine reactant, hydroquinone and 50% NaOH in dimethylsulfoxide (DMSO) at 100°-116° C. for about 11/2 hours gave product yields of 33% 1,4-((bis(3,5-dichloro-2-pyridinyl)oxy))benzene and about 49% of the desired mono compound, i.e., 4-(3,5-dichloro-2-pyridinyloxy)phenol. Reaction of 0.1 mole of the pyridine reactant with 0.2 mole of the hydroquinone and 0.15 mole of the 50% NaOH (added portionwise to the reaction mixture over a period of about 20 minutes) in 80 ml of DMSO at 90°-100° C. for about 5.5 hours resulted in a product yield of about 16.6% of the bis compound named above and about 75.9% of the desired mono compound. Further operations using equimolar amounts of pyridine reactant to hydroquinone reactant (0.4 mole each) and a mole ratio of base to hydroquinone of 2:1 (0.8 mole 50% caustic, 0.4 mole hydroquinone) in 250 ml of DMSO at temperatures of 100°-113° C. for about 2.5 hours resulted in a product yield of only 4% of the bis compound and 84.4% of the desired mono compound.

reactant | 2,3,5-trichloropyridine | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | NaOH | [OH-].[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4-(3,5-dichloro-2-pyridinyloxy)phenol | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(C=C1)O | C11H7Cl2NO2
